US04018794
A mixture of 4-benzyl-3-n-butylthio-5-sulfamylbenzoic acid (0.78 g) chloroacetonitrile (0.17 g), triethylamine (0.42 g) and dry acetone (10 ml) is refluxed for 6 hours. After cooling, the separated triethylamine hydrochloride is removed by filtration, and the filtrate is evaporated in vacuo. The residue is crystallized by trituration with aqueous ethanol. After cooling the material is collected by filtration, washed with cold aqueous ethanol and dried. After recrystallization from aqueous ethanol, cyanomethyl 4-benzyl-3-n-butylthio-5-sulfamylbenzoate is obtained with a melting point of 112.5°-114° C.

reactant | 4-benzyl-3-n-butylthio-5-sulfamylbenzoic acid | 0.78 g | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCCCC | C18H21NO4S2
reactant | triethylamine | 0.42 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | cyanomethyl 4-benzyl-3-n-butylthio-5-sulfamylbenzoate | C(C1=CC=CC=C1)C1=C(C=C(C(=O)OCC#N)C=C1S(N)(=O)=O)SCCCC | C20H22N2O4S2
